US06960598B2
5-Chloro-2-trifluoromethyl[1,8]naphthyridine (50 mg, 0.22 mmol) was coupled to 3-[3-(5,5-dimethyl[1,3,2]dioxaborinan-2-yl)-5-fluorophenyl]pyridine (80 mg, 0.28 mmol) as described in Example 7 part g), affording 5-(3-fluoro-5-pyridin-3-ylphenyl)-2-trifluoromethyl[1,8]naphthyridine (19 mg, 24%). δH (360 MHz, CDCl3) 7.24-7.63 (1H, m), 7.41-7.45 (1H, m), 7.48-7.52 (2H, m), 7.63 (1H, d, J 4.6), 7.86 (1H, d, J 8.8), 7.92 (1H, dt, J 8.1 and 1.9), 8.55 (1H, d, J 8.8), 8.69 (1H, dd, J 1.6 and 4.7), 8.90 (1H, d, J 1.8), 9.32 (1H, d, J 4.6). m/z (ES+) 370 [MH]+.

reactant | 5-Chloro-2-trifluoromethyl[1,8]naphthyridine | 0.22 mmol, 50 mg | ClC1=C2C=CC(=NC2=NC=C1)C(F)(F)F | C9H4ClF3N2
reactant | 3-[3-(5,5-dimethyl[1,3,2]dioxaborinan-2-yl)-5-fluorophenyl]pyridine | 0.28 mmol, 80 mg | CC1(COB(OC1)C=1C=C(C=C(C1)F)C=1C=NC=CC1)C | C16H17BFNO2
product | 5-(3-fluoro-5-pyridin-3-ylphenyl)-2-trifluoromethyl[1,8]naphthyridine | 19 mg, 24% | FC=1C=C(C=C(C1)C=1C=NC=CC1)C1=C2C=CC(=NC2=NC=C1)C(F)(F)F | C20H11F4N3
